US07547691B2
2-{5-Methyl-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride
Hydrochloric acid (1.0 M, 0.306 mL) is added to a stirred suspension of 2-{5-methyl-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide (71.2 mg, 0.153 mmol) in MeOH (5 mL). The resulting solution is concentrated on the rotorvap at 45° C. to give a solid. After vacuum drying at 45° C. for about 2 hours the title compound is obtained as a solid (80.0 mg; 97% yield). ES+(m/z) 465 [M+H].

reactant | Hydrochloric acid | 1.0 M, 0.306 mL | Cl | ClH
reactant | 2-{5-methyl-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | 0.153 mmol, 71.2 mg | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)NCCCN2CCN(CC2)C | C25H32N6OS
solvent | MeOH | 5 mL | CO | CH4O
product | 2-{5-Methyl-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride | 97% yield | Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)NCCCN2CCN(CC2)C | InChI=1S/C25H32N6OS.2ClH/c1-17-16-27-25(26-9-4-10-31-13-11-30(2)12-14-31)29-23(17)22-15-20-19(5-3-6-21(20)33-22)24(32)28-18-7-8-18;;/h3,5-6,15-16,18H,4,7-14H2,1-2H3,(H,28,32)(H,26,27,29);2*1H
